US08729102B2
A mixture of tert-butyl [(1S)-2-({6-[6-(2-hydroxypropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate (1.02 g) (obtained using tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate (4.00 g) and 1-bromopropan-2-one (1.56 g) and in the same manner as in Example 2, step E and Example 24, step F), bis(2-methoxyethyl)aminosulfur trifluoride (0.848 mL) and toluene (10 mL) was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-2-({6-[6-(2-fluoropropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate. Using the obtained compound, and in the same manner as in Example 1, step D, the title compound was obtained (61.3 mg).

reactant | tert-butyl [(1S)-2-({6-[6-(2-hydroxypropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | 1.02 g | OC(COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)C | C23H29N3O6
reactant | tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate | 4.00 g | OC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H23N3O5
reactant | 1-bromopropan-2-one | 1.56 g | BrCC(C)=O | C3H5BrO
reactant | bis(2-methoxyethyl)aminosulfur trifluoride | 0.848 mL | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl [(1S)-2-({6-[6-(2-fluoropropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)-1-methylethyl]carbamate | FC(COC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1)C | C23H28FN3O5
